US09212170B2
(1) 4′-{[(6-Chloropyridin-3-yl)methoxy]methyl}biphenyl-2-carbonitrile
(6-Chloropyridin-3-yl)methanol (4.3 g) was dissolved in tetrahydrofuran (150 mL), and the solution was cooled to 0° C. Sodium hydride (63%, 1.4 g) was added thereto, and the mixture was stirred at 0° C. for 1 hour. Subsequently, 4′-(bromomethyl)biphenyl-2-carbonitrile (9.0 g) was added thereto at 0° C., and the mixture was stirred at 50° C. for 19 hours. The reaction solution was brought back to room temperature, and a saturated aqueous ammonium chloride solution was added thereto. After extraction with ethyl acetate, the organic layer was dried over sodium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (Moritex Corporation, elution solvent: hexane/ethyl acetate) to obtain the title compound (6.2 g) as a white solid (yield: 62%).

reactant | (6-Chloropyridin-3-yl)methanol | 4.3 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | Sodium hydride | 1.4 g | [H-].[Na+]
reactant | 4′-(bromomethyl)biphenyl-2-carbonitrile | 9.0 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H10BrN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4′-{[(6-Chloropyridin-3-yl)methoxy]methyl}biphenyl-2-carbonitrile | 6.2 g, yield: 62% | ClC1=CC=C(C=N1)COCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C20H15ClN2O
